US06610707B1
Triethylamine (14.46 ml) was added to a solution of (2S)-1-(tert-butoxycarbonyl)-2-piperidinecarboxylic acid (18.3 g) [see Preparation 1] in tetrahydrofuran (240 ml) at −20° C. under an atmosphere of nitrogen. Ethyl chloroformate (7.52 ml) was then added to the mixture and the resulting solution was stirred for 40 mins. at −10° C. and then 0.88 aqueous ammonia solution (32 ml) added. The reaction mixture was stirred for 10 mins. after which time the solvent was removed under reduced pressure and the residue diluted with ethyl acetate and water. The organic layer was separated and dried over magnesium sulphate and the solvent was removed under reduced pressure to afford tert-butyl (2S)-2-(aminocarbonyl)-1-piperidinecarboxylate (18.65 g) as a white solid. 1H-NMR (CDCl3) δ: 6.0 (1H, bs), 5.40 (1H, bs), 4.80 (1H, s), 4.00 (1H, m), 2.85 (1H, t), 2.30 (1H, d), 1.80-1.40 (14H, m).

reactant | Triethylamine | 14.46 ml | C(C)N(CC)CC | C6H15N
reactant | (2S)-1-(tert-butoxycarbonyl)-2-piperidinecarboxylic acid | 18.3 g | C(C)(C)(C)OC(=O)N1[C@@H](CCCC1)C(=O)O | C11H19NO4
reactant | Ethyl chloroformate | 7.52 ml | ClC(=O)OCC | C3H5ClO2
reactant | ammonia | 32 ml | N | H3N
solvent | tetrahydrofuran | 240 ml | O1CCCC1 | C4H8O
product | tert-butyl (2S)-2-(aminocarbonyl)-1-piperidinecarboxylate | 18.65 g | NC(=O)[C@H]1N(CCCC1)C(=O)OC(C)(C)C | C11H20N2O3
